US08835449B2
(Z)-Ethyl 3-(2,6-dimethoxypyridin-3-yl)-3-((2-hydroxyethyl)amino)acrylate
To a solution of ethyl 3-(2,6-dimethoxypyridin-3-yl)-3-oxopropanoate (500 mg, 1.97 mmol) in EtOH (4 mL) was added 2-aminoethanol (0.60 mL, 9.9 mmol) followed by acetic acid (0.63 mL, 9.9 mmol). The reaction mixture was heated to 90° C. for 16 hours, cooled to room temperature and concentrated in vacuo. The residue was partitioned between EtOAc and water. The organic layer was concentrated in vacuo and the crude material was purified by chromatography on silica eluting with 20-80% EtOAc/heptane to provide the title compound (573 mg, 98%) as a clear gum.

reactant | ethyl 3-(2,6-dimethoxypyridin-3-yl)-3-oxopropanoate | 1.97 mmol, 500 mg | COC1=NC(=CC=C1C(CC(=O)OCC)=O)OC | C12H15NO5
reactant | 2-aminoethanol | 9.9 mmol, 0.60 mL | NCCO | C2H7NO
reactant | acetic acid | 9.9 mmol, 0.63 mL | C(C)(=O)O | C2H4O2
solvent | EtOH | 4 mL | CCO | C2H6O
product | (Z)-Ethyl 3-(2,6-dimethoxypyridin-3-yl)-3-((2-hydroxyethyl)amino)acrylate | 573 mg, 98% | COC1=NC(=CC=C1/C(=C/C(=O)OCC)/NCCO)OC | C14H20N2O5
